US07790728B2
4-({[tert-Butyl(dimethyl)silyl]oxy}methyl)pyridine
A mixture of pyridin-4-ylmethanol (8.0 g, 73 mmol), tert-butyldimethylsilyl chloride (14.3 g, 95 mmol) and imidazole (12.9 g, 0.19 mol) in DMF (40 mL) was stirred overnight at room temperature. The reaction was poured onto water and extracted twice with ethyl acetate. The combined organic phases were dried (MgSO4) and evaporated under reduced pressure to yield the title compound as yellow oil (7.5 g, 46%).

reactant | pyridin-4-ylmethanol | 73 mmol, 8.0 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | tert-butyldimethylsilyl chloride | 95 mmol, 14.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.19 mol, 12.9 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-({[tert-Butyl(dimethyl)silyl]oxy}methyl)pyridine | 7.5 g, 46% | [Si](C)(C)(C(C)(C)C)OCC1=CC=NC=C1 | C12H21NOSi
